US06967256B2
Synthesis of 3,4-bis-phenylethynyl-2,5-dihydrofuran (two-step procedure)
350 mg (0.25 mmol) of the enedialkylidyne, the preparation of which is described above, was dissolved in 5.0 mL of toluene. 255 mg (1.50 mmol) of 2-phenylphenol dissolved in 5.0 mL of toluene was added; the solution changes from brown to deep red in color. After 90 min, 267 mg (1.50 mmol) of diphenylacetylene was added as a solid all at once. The solution retains a deep red color. After 90 min, the reaction mixture was diluted with 20 mL of 1M HCl(aq) and then diluted with EtOAc. The layers were separated and then the organic layer was washed three times with 1M HCl. The combined HCl layers were washed once with EtOAc and then the combined organic layers were washed with brine and dried using MgSO4 then filtered. To the filtrate was added 2 or 3 g of silica gel, concentrated by rotovap to a powder then loaded onto silica-packed column (hexane). Elution using hexane then 1% EtOAc/hexane then 5% EtOAc/hexane enabled isolation of the enediyne in 86% yield (58 mg, 0.215 mmol) as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.55-7.52 (m, 4H), 7.39-7.35 (m, 6H), 4.86 (s, 4H); 13C NMR (100 MHz, CDCl3): 131.7, 128.9, 128.4, 125.6, 122.6, 99.0, 81.3, 77.4.

reactant | 2-phenylphenol | 1.50 mmol, 255 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | diphenylacetylene | 1.50 mmol, 267 mg | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 1M, 20 mL | Cl | ClH
product | 3,4-bis-phenylethynyl-2,5-dihydrofuran | 86% yield | C1(=CC=CC=C1)C#CC=1COCC1C#CC1=CC=CC=C1 | C20H14O
